US08372866B2
c) 2-(4-methoxyphenyl)-3-benzyloxy-6-amino-4H-1-benzopyran-4-one hydrochloride
Prepared analogously to Example 5c) starting from 2-(4-methoxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one. Yield: 54%; TLC (9/1 Chloroform/Methanol) Rf: 0.60; Elem. anal. C23H19NO4*HCl; theory C, 67.40; H, 4.92; N, 3.42. found C, 64.24; H, 4.73; N, 3.20. IR (KBr): 3433, 2833, 2592, 1629, 1498, 1167 cm−1, 1H-NMR (d6-DMSO): 8.0 (m, 2H), 7.73 (m, 2H), 7.52 (dd, 1H), 7.37-7.22 (m, 5H), 7.10 (m, 2H).

reactant | 2-(4-methoxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | COC1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=O | C25H21NO5
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | 2-(4-methoxyphenyl)-3-benzyloxy-6-amino-4H-1-benzopyran-4-one hydrochloride | Yield: 54% | Cl.COC1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)N | InChI=1S/C23H19NO4.ClH/c1-26-18-10-7-16(8-11-18)22-23(27-14-15-5-3-2-4-6-15)21(25)19-13-17(24)9-12-20(19)28-22;/h2-13H,14,24H2,1H3;1H
